### PR TITLE
feat(MultiTapeTM): TransformsTapes interface and sequential composition

### PR DESCRIPTION
**Pull request by crei**
Introduce an abstraction over Turing machines that normalizes head positions and uses `List Symbol` for tape contents with a Hoare-style interface. This abstraction will be used by control-flow combinators to be introduced later.

Here are the most important definitions and results:

* `Plumbing/TransformsTapes.lean`: `tapeOfList` (a tape holding exactly a word), `wordsCfg` (a configuration whose tapes hold given words), `TransformsTapes` (started on word-holding tapes, halt in the normal form `wordsCfg input none ws' out` with the new words related to the old by a postcondition, within given time/space), its `.imp` weakening, and `exists_transformsTapes_nop` as the inhabiting example.
* `Plumbing/Sequential.lean`: `transformsTapes_seq`, running one transformer then another. The halting configuration of the first is a valid starting configuration for the second, so the two chain by rewriting with the normal-form equality.
* `TapeLemmas.lean`: add the visited-set / space-usage lemmas the interface needs (`visitedByTapeHead_add`, `spaceUsed_add_le`, `spaceUsed_eq_of_workTapePos`, `exists_visitedByTapeHead_eq_Icc`, `spaceUsed_le_of_one_moving`, ...).
* `Configuration.lean`: add the state-remap embeddings `Cfg.mapState` and `Cfg.withState`, used to place a sub-machine's configurations into a larger one.
* `Deterministic.lean`: add `runFrom_eq_of_halt` and `exists_minimal_halting_time`.

AI disclosure: Claude code was heavily used in a tight review loop.

### CODE REVIEW

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean [hunk 1]
```diff
@@ -0,0 +1,162 @@
...
+
+/-- `TransformsTapes tm P Q t s`: started in its initial state on tapes holding words `ws` that
+satisfy the precondition `P`, the machine halts after at most `t` steps in the configuration whose
+tapes hold words `ws'` with `Q input ws ws'`, having used at most `s` work-tape cells.
+
+The bounds are numbers; a specification whose bounds depend on the data is a *family*
+`∀ j, TransformsTapes tm (P j) (Q j) (t j) (s j)` over one fixed machine. -/
+def TransformsTapes (tm : MultiTapeTM k Symbol State)
+    (P : (input : List Symbol) → (Fin k → List Symbol) → Prop)
+    (Q : (input : List Symbol) → (Fin k → List Symbol) → (Fin k → List Symbol) → Prop)
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean:109]: Could we maybe introduce `abbrev Word := List Symbol`?

Comment (crei) [reply Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean:109]: I'm not sure. If I read `List Symbol` I know what it is about. `Word` could be anything that resembles finite sequence (or maybe even infinite). It is kind of excessive in these two lines, but I think it's better to be explicit.

Comment (SamuelSchlesinger) [reply Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean:109]: That's fair, but we use word a lot in the documentation then we have `List Symbol`. It would be nice if the definitions read more like the documentation.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean [hunk 2]
```diff
@@ -0,0 +1,162 @@
...
+    (t s : ℕ) : Prop :=
+  ∀ (input : List Symbol) (ws : Fin k → List Symbol) (out : List Symbol), P input ws →
+    ∃ τ ≤ t, ∃ ws',
+      tm.runFrom (wordsCfg input (some tm.q₀) ws out) τ = wordsCfg input none ws' out ∧
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean:113]: I suspect the halting time witness is redundant here.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean [hunk 3]
```diff
@@ -0,0 +1,162 @@
...
+
+private lemma step_nop (ws : Fin k → List Symbol) (out : List Symbol) :
+    (nop k Symbol).step (wordsCfg input (some ()) ws out) = wordsCfg input none ws out := by
+  refine Cfg.ext rfl ?_ ?_ ?_ ?_ <;>
+    simp [step, nop, Action.apply, wordsCfg, SignType.cast]
+
+/-- The machine that does nothing: it halts in one step, leaving every word as it was. Its
+heads never move, so it visits one cell per tape. This is the first machine of the interface: it
+checks that the specification format is inhabited exactly as intended. -/
+theorem exists_transformsTapes_nop (k : ℕ) (Symbol : Type*) :
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean:147]: If we expose `nop` we don't need the existential here.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean [hunk 4]
```diff
@@ -0,0 +1,162 @@
...
+    TransformsTapes tm P' Q' t' s' := by
+  intro input ws out hP'
+  obtain ⟨τ, hτ, ws', hrun, hQ', hspace⟩ := h input ws out (hP input ws hP')
+  exact ⟨τ, hτ.trans ht, ws', hrun, hQ input ws ws' hP' hQ', hspace.trans hs⟩
+
+section Nop
+
+/-- The machine that does nothing: it halts on its first step, leaving the configuration
+unchanged. -/
+private def nop (k : ℕ) (Symbol : Type*) : MultiTapeTM k Symbol Unit where
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean:135]: Please expose, Combinators will want the identity machine by name as the unit of `seq`.

File: Cslib/Computability/Machines/Turing/MultiTape/TapeLemmas.lean [hunk 5]
```diff
@@ -148,4 +148,132 @@ lemma spaceUsed_mono (tm : MultiTapeTM k Symbol State) (cfg : Cfg k Symbol State
...
+    _ = k := by simp
+
+/-- Space bound for a run in which one head stays inside an interval and every other head is
+fixed: the moving tape contributes the interval, each other tape a single cell. -/
+lemma spaceUsed_le_of_one_moving (cfg : Cfg k Symbol State input) (t : ℕ) (i : Fin k)
+    (lo hi : ℤ)
+    (hi_move : ∀ m ≤ t, lo ≤ (tm.runFrom cfg m).workTapePos i ∧
+      (tm.runFrom cfg m).workTapePos i ≤ hi)
+    (hfixed : ∀ m ≤ t, ∀ j, j ≠ i → (tm.runFrom cfg m).workTapePos j = cfg.workTapePos j) :
+    tm.spaceUsed cfg t ≤ (hi + 1 - lo).toNat + k := by
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Machines/Turing/MultiTape/TapeLemmas.lean:253]: The proof establishes `k - 1`, just tighten this up.

**Review by SamuelSchlesinger — CHANGES_REQUESTED** [review]
This will help substantially with my work, but please consider the changes I requested. Further, many of the definitions which are the same across my work and this one have had argument orders and names changed. Please justify in comments or align so the rebase can be easier.

**Comment by SamuelSchlesinger** [comment]
For context for future reviewers, we decided to close the PRs I had open and go with a sequence from @crei's https://github.com/crei/cslib/pull/185.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean (hunk 1 above)
Comment (crei) [reply Cslib/Computability/Machines/Turing/MultiTape/Plumbing/TransformsTapes.lean:113]: LTS / Automata / Languages also talk about words all the time and don't explicitly define the concept. I think this is comparable to Mathlib talking about "sequence" when they mean `ℕ → α`.

**Review by SamuelSchlesinger — APPROVED** [review]
